US04086415
(a) 1-ethyl-3-(β-D-glucopyranosyl)-1-nitrosourea
1-ethyl-3-(β-D-glucopyranosyl)urea (930 mg) was dissolved in a mixture of water (4.3 ml) and acetic acid (4.3 ml), and to the solution was added 370 mg (1.5 mol. equivalents) of sodium nitrite in small portions under stirring. The mixture was stirred overnight at ambient temperature to complete the nitrosation. The reaction mixture was then treated with 4 ml of a cation-exchange resin, Amberlite IR-120 (H+ form), to remove the sodium ion therefrom. The reaction mixture was subsequently freeze-dried, affording 1.0 g of the titled compound as an amorphous substance of pale yellow color. [α]D26 -2° (c 1.0, H2O). This substance gave a single spot at Rf 0.82 in a thin layer chromatography on silica gel using chloroform-methanol (3:2 by volume) as eluent.

reactant | 1-ethyl-3-(β-D-glucopyranosyl)urea | 930 mg | C(C)NC(=O)N[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C9H18N2O6
reactant | sodium nitrite | 1.5 mol, 370 mg | N(=O)[O-].[Na+]
solvent | water | 4.3 ml | O | H2O
solvent | acetic acid | 4.3 ml | C(C)(=O)O | C2H4O2
product | 1-ethyl-3-(β-D-glucopyranosyl)-1-nitrosourea | 1.0 g | C(C)N(C(=O)N[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)N=O | C9H17N3O7
